US07935688B2
(2) Synthesis of Trifluoromethanesulfonic Acid 4-{1-ethyl-1-[4-(1-hydroxy-cyclopentylethynyl)-3-methyl-phenyl]-propyl}-2-methyl-phenyl Ester
Pyridine (0.97 mL, 12 mmol) and trifluoromethanesulfonic anhydride (1.3 mL, 7.7 mmol) were added to a solution of 4-{1-ethyl-1-[4-(1-hydroxy-cyclopentylethynyl)-3-methyl-phenyl]-propyl}-2-methyl-phenol (Example 32-(1); 3 g, 8 mmol) in dichloromethane (30 mL) at −10° C., and the mixture was stirred at the same temperature for 10 minutes. A saturated aqueous sodium bicarbonate solution was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (hexane only to hexane/ethyl acetate=4/1) to give the title compound (2 g, 49%).

reactant | Pyridine | 12 mmol, 0.97 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 7.7 mmol, 1.3 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 4-{1-ethyl-1-[4-(1-hydroxy-cyclopentylethynyl)-3-methyl-phenyl]-propyl}-2-methyl-phenol | 8 mmol, 3 g | C(C)C(CC)(C1=CC(=C(C=C1)C#CC1(CCCC1)O)C)C1=CC(=C(C=C1)O)C | C26H32O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | Trifluoromethanesulfonic Acid 4-{1-ethyl-1-[4-(1-hydroxy-cyclopentylethynyl)-3-methyl-phenyl]-propyl}-2-methyl-phenyl Ester | 2 g, 49% | C(C)C(CC)(C1=CC(=C(C=C1)C#CC1(CCCC1)O)C)C1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)C | C27H31F3O4S
